US07026335B2
Preparation of [1-(R)-(4-chlorobenzyl)-2-(4′-hydroxymethyl-[1,4′]-bipiperidinyl-1′-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (23):
To a round bottom flask equipped with a stirring bar is charged [1,4′]bipiperidinyl-4′-yl-methanol, 22, (2.2 g, 11.1 mmol, 1.0 eq.) 2-(R)-tert-butoxycarbonylamino-3-(4-chlorophenyl)-propionic acid (3.648 g, 12.2 mmol), 1-hydroxybenzotriazole (2.552 g, 18.9 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (3.71 g, 18.9 mmol) in anhydrous N,N-dimethylformamide (80 mL). The mixture is cooled to 0° C. and N,N-diisopropyl-ethylamine (4.1 mL, 37.7 mmol) is added. The ice bath is removed and the reaction mixture allowed to stir overnight. The mixture is concentrated under reduced pressure and purified by preparative HPLC to afford 2.83 g (43% yield) of the desired compound as the trifluoroacetic acid salt. 1H NMR (CD3OD, 300 MHz) δ 0.85–2.13 (m, 19H), 2.65–3.82 (m, 8H), 3.90–4.10 (m, 3H), 4.48 (m, 1H), 4.76 (m, 1H), 7.22–7.48 (m, 4H). MS (ESI) m/z 480 (M+H+).

reactant | [1,4′]bipiperidinyl-4′-yl-methanol | N1(CCCCC1)C1(CCNCC1)CO | C11H22N2O
reactant | 2-(R)-tert-butoxycarbonylamino-3-(4-chlorophenyl)-propionic acid | 11.1 mmol, 2.2 g, 1.0 eq. | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)Cl | C14H18ClNO4
reactant | 1-hydroxybenzotriazole | 18.9 mmol, 2.552 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 18.9 mmol, 3.71 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N,N-diisopropyl-ethylamine | 37.7 mmol, 4.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | [1-(R)-(4-chlorobenzyl)-2-(4′-hydroxymethyl-[1,4′]-bipiperidinyl-1′-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 2.83 g, 43% yield | C(C)(C)(C)OC(N[C@@H](C(=O)N1CCC(CC1)(N1CCCCC1)CO)CC1=CC=C(C=C1)Cl)=O | C25H38ClN3O4
